US08729078B2
2-Bromothiazole-4-carboxylic acid methyl ester (50 mg) was dissolved in a solution of saturated ammonia in methanol (4 ml). The reaction solution was stirred overnight at room temperature. The solvent was removed under reduced pressure to give 2-bromothiazole-4-carboxylic acid amide (46 mg, yield 100%) as a yellow solid. 1H NMR (300 MHz, CDCl3): δ 8.11 (s, 1H). LC-MS calcd for C4H3BrN2OS (m/e) 205.91, obsd 207 and 209 [M+1]+.

reactant | 2-Bromothiazole-4-carboxylic acid methyl ester | 50 mg | COC(=O)C=1N=C(SC1)Br | C5H4BrNO2S
reactant | ammonia | N | H3N
solvent | methanol | 4 ml | CO | CH4O
product | 2-bromothiazole-4-carboxylic acid amide | 46 mg, yield 100% | BrC=1SC=C(N1)C(=O)N | C4H3BrN2OS
